US07582773B2
Step 4: Synthesis of [4-(3-Benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(3-benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenol (0.140 g, 0.359 mmol) was reacted with K2CO3 (0.065 g, 0.467 mmol) and bromoacetonitrile (0.056 g, 0.467 mmol) in acetone (5 ml) to give the product (0.141 g, 0.329 mmol, 92%) as a glass-like solid. 1H NMR (DMSO-d6) δ 3.62 (s, 3H), 4.04 (s, 2H), 5.18 (s, 2H), 7.07-7.13 (m, 5H), 7.18 (t, J=7.5 Hz, 2H), 7.44-7.49 (m, 4H), 7.52-7.55 (m, 3H), 7.57-7.60 (m, 3H); [ESI(+)], m/z 429 (M+H)+.

reactant | 4-(3-benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenol | 0.359 mmol, 0.140 g | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)O)C)C1=CC=CC=C1 | C28H23NO
reactant | K2CO3 | 0.467 mmol, 0.065 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 0.467 mmol, 0.056 g | BrCC#N | C2H2BrN
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | [4-(3-Benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(OCC#N)C=C1)C)C1=CC=CC=C1 | C30H24N2O
